US09403847B2
Step F: 1-[3-(3,5-Difluorophenyl)-5-methylimidazo[1,2-a]pyridin-2-yl]ethanone
A solution of 3-(3,5-difluorophenyl)-N-methoxy-N,5-dimethylimidazo[1,2-a]pyridine-2-carboxamide (0.43 g, 1.3 mmol) in tetrahydrofuran (5.2 mL) at 0° C. was treated with 3 M methylmagnesium chloride in tetrahydrofuran (1.3 mL, 3.9 mmol) dropwise and stirred at 0° C. for 30 min. The reaction mixture was treated with additional 3 M methylmagnesium chloride in tetrahydrofuran (1.3 mL, 3.9 mmol) dropwise and stirred at 0° C. for another 30 min. The reaction mixture was quenched with 1 M hydrogen chloride (5.2 mL, 5.2 mmol), poured into saturated sodium bicarbonate (25 mL), and extracted with ethyl acetate (75 mL). The organic layer was separated, washed with brine and water, and dried with sodium sulfate, filtered, and concentrated to a crude solid. Purification by flash column chromatography gave the desired product (0.29 g, 78%). LCMS for C16H13F2N2O (M+H)+: m/z=287.1.

reactant | 3-(3,5-difluorophenyl)-N-methoxy-N,5-dimethylimidazo[1,2-a]pyridine-2-carboxamide | 1.3 mmol, 0.43 g | FC=1C=C(C=C(C1)F)C1=C(N=C2N1C(=CC=C2)C)C(=O)N(C)OC | C17H15F2N3O2
reactant | methylmagnesium chloride | 3 M | C[Mg]Cl
reactant | methylmagnesium chloride | 3 M | C[Mg]Cl
reactant | hydrogen chloride | 5.2 mmol, 1 M, 5.2 mL | Cl | ClH
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5.2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.9 mmol, 1.3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.9 mmol, 1.3 mL | O1CCCC1 | C4H8O
product | 1-[3-(3,5-Difluorophenyl)-5-methylimidazo[1,2-a]pyridin-2-yl]ethanone | 0.29 g, 78% | FC=1C=C(C=C(C1)F)C1=C(N=C2N1C(=CC=C2)C)C(C)=O | C16H12F2N2O
